US06951879B2
According to the method in example 7, 6-(4-Bromo-butoxy)-3-(4-chloro-phenyl)-benzo[d]isothiazole and 2-Ethylamino-ethanol were converted to yield 2-({4-[3-(4-Chloro-phenyl)-benzo[d]isothiazol-6-yloxy]-butyl}-ethyl-amino)-ethanol, MS: 405 (MH+, 1Cl).

reactant | 6-(4-Bromo-butoxy)-3-(4-chloro-phenyl)-benzo[d]isothiazole | BrCCCCOC1=CC2=C(C(=NS2)C2=CC=C(C=C2)Cl)C=C1 | C17H15BrClNOS
reactant | 2-Ethylamino-ethanol | C(C)NCCO | C4H11NO
product | 2-({4-[3-(4-Chloro-phenyl)-benzo[d]isothiazol-6-yloxy]-butyl}-ethyl-amino)-ethanol | ClC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)OCCCCN(CCO)CC | C21H25ClN2O2S
